US04829099
Diethylene glycol (31.8 g, 0.3 mole) and p-nitrobenzoyl chloride (116 g, 0.62 mole) were reacted under the conditions described in Example 1, Part A. The product was crystallized from ethyl acetate to give bis-(4-nitrobenzoyl)-diethylene glycol (101 g) as a pale yellow solid, m.p. 100°-102° C. The product was homogeneous by TLC.

reactant | Diethylene glycol | 0.3 mole, 31.8 g | C(COCCO)O | C4H10O3
reactant | p-nitrobenzoyl chloride | 0.62 mole, 116 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | bis-(4-nitrobenzoyl)-diethylene glycol | 101 g | [N+](=O)([O-])C1=CC=C(C(=O)C(COCCO)(C(C2=CC=C(C=C2)[N+](=O)[O-])=O)O)C=C1 | C18H16N2O9
